### PR TITLE
feat(ErdosProblems): 1104

### LINKED ISSUE #1301: Erdős Problem 1104
### What is the conjecture

https://www.erdosproblems.com/1104

  Let $f(n)$ be the maximum possible chromatic number of a triangle-free graph on $n$ vertices. Estimate $f(n)$.

Status:open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by a-khushal**
Closes #1301

### CODE REVIEW

File: FormalConjectures/ErdosProblems/1104.lean [hunk 1]
```diff
@@ -0,0 +1,61 @@
...
+theorem erdos_1104 :
+    (∃ c₁ c₂ : ℝ, 0 < c₁ ∧ c₁ ≤ 1 ∧ 2 ≤ c₂ ∧
+      (∀ᶠ n : ℕ in atTop,
+        c₁ * Real.sqrt (n : ℝ) / Real.sqrt (Real.log (n : ℝ)) ≤
+          (triangleFreeMaxChromatic n : ℝ)) ∧
+      (∀ᶠ n : ℕ in atTop,
+        (triangleFreeMaxChromatic n : ℝ) ≤
+          c₂ * Real.sqrt (n : ℝ) / Real.sqrt (Real.log (n : ℝ)))) ↔
+      answer(sorry) := by
+  sorry
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1104.lean]: Can you split the various assertions into separate statements? Makes it easier for LLMs :)

Comment (a-khushal) [reply FormalConjectures/ErdosProblems/1104.lean]: I've split them now.

File: FormalConjectures/ErdosProblems/1104.lean [hunk 2]
```diff
@@ -0,0 +1,104 @@
...
+    ∃ c₁ : ℝ, 0 < c₁ := by
+  sorry
+
+/--
+The lower bound constant c₁ satisfies c₁ ≤ 1.
+-/
+@[category research open, AMS 5]
+theorem lower_bound_constant_le_one :
+    ∃ c₁ : ℝ, 0 < c₁ ∧ c₁ ≤ 1 := by
+  sorry
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1104.lean]: These statements are trivial 
```suggestion
```

File: FormalConjectures/ErdosProblems/1104.lean [hunk 3]
```diff
@@ -0,0 +1,104 @@
...
+
+/--
+The lower bound holds: $(1 - o(1)) \cdot \sqrt{n / \log n} \leq f(n)$
+(Hefty, Horn, King, Pfender 2025)
+-/
+@[category research open, AMS 5]
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1104.lean]: Is this open? What does the reference say?

File: FormalConjectures/ErdosProblems/1104.lean [hunk 4]
```diff
@@ -0,0 +1,104 @@
...
+          (triangleFreeMaxChromatic n : ℝ)) := by
+  sorry
+
+/--
+There exists a constant c₂ ≥ 2 for the upper bound.
+-/
+@[category research open, AMS 5]
+theorem upper_bound_constant_exists :
+    ∃ c₂ : ℝ, 2 ≤ c₂ := by
+  sorry
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1104.lean]: Same here

File: FormalConjectures/ErdosProblems/1104.lean [hunk 5]
```diff
@@ -0,0 +1,104 @@
...
+@[category research open, AMS 5]
+theorem erdos_1104 :
+    (∃ c₁ c₂ : ℝ, 0 < c₁ ∧ c₁ ≤ 1 ∧ 2 ≤ c₂ ∧
+      (∀ᶠ n : ℕ in atTop,
+        c₁ * Real.sqrt (n : ℝ) / Real.sqrt (Real.log (n : ℝ)) ≤
+          (triangleFreeMaxChromatic n : ℝ)) ∧
+      (∀ᶠ n : ℕ in atTop,
+        (triangleFreeMaxChromatic n : ℝ) ≤
+          c₂ * Real.sqrt (n : ℝ) / Real.sqrt (Real.log (n : ℝ)))) := by
+  sorry
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1104.lean]: This now duplicates the above statements, right?
```suggestion
```

File: FormalConjectures/ErdosProblems/1104.lean (hunk 3 above)
Comment (a-khushal) [reply FormalConjectures/ErdosProblems/1104.lean]: It's proven, changed to solved.

File: FormalConjectures/ErdosProblems/1104.lean (hunk 4 above)
Comment (a-khushal) [reply FormalConjectures/ErdosProblems/1104.lean]: changed to solved.

File: FormalConjectures/ErdosProblems/1104.lean (hunk 5 above)
Comment (a-khushal) [reply FormalConjectures/ErdosProblems/1104.lean]: yes, removed the duplicate now.

File: FormalConjectures/ErdosProblems/1104.lean (hunk 2 above)
Comment (a-khushal) [reply FormalConjectures/ErdosProblems/1104.lean]: I've removed them now.

File: FormalConjectures/ErdosProblems/1104.lean [hunk 6]
```diff
@@ -0,0 +1,51 @@
...
+namespace Erdos1104
+
+open Filter SimpleGraph
+open scoped Real
+
+/-- Maximum chromatic number of a triangle-free graph on `n` vertices. -/
+noncomputable def triangleFreeMaxChromatic (n : ℕ) : ℕ :=
+  sSup {χ | ∃ G : SimpleGraph (Fin n), G.CliqueFree 3 ∧ G.chromaticNumber = χ}
+
+/-- Lower bound (Hefty–Horn–King–Pfender 2025). -/
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1104.lean]: Can you write a latex description in the docstring? Same below

Comment (a-khushal) [reply FormalConjectures/ErdosProblems/1104.lean]: Sure, added the docstring.
